US06700007B2
450 g of 1-bromopropane (3.66 mol) are loaded into a 1 l glass reactor. The mixture is heated to 70° C. and then 200 g of 1-methylimidazole (2.44 mol) are poured in dropwise, with stirring. The mixture is left to react for 1 h at 70° C. After returning to room temperature, the mixture is separated by decantation. The bottom ionic liquid phase is recovered, washed with toluene (1×100 ml), and then evaporated under vacuum. 475 g of 1-methyl-3-propylimidazolium bromide are obtained in the form of a yellow liquid. The product is used as a base without further purification.

reactant | 1-bromopropane | 3.66 mol, 450 g | BrCCC | C3H7Br
reactant | 1-methylimidazole | 2.44 mol, 200 g | CN1C=NC=C1 | C4H6N2
product | 1-methyl-3-propylimidazolium bromide | 475 g | [Br-].C[N+]1=CN(C=C1)CCC | InChI=1S/C7H13N2.BrH/c1-3-4-9-6-5-8(2)7-9;/h5-7H,3-4H2,1-2H3;1H/q+1;/p-1
